US04997840
A solution of sulphuryl chloride (12.7 ml) in dichloromethane (20 ml) was added dropwise to the solution of 2'-acetyl-N-ethylformanilide at 0° and the mixture stirred at 0° for 4 hours. Water (110 ml) was then added whilst maintaining the temperature below 10°. The dichloromethane layer was separated, washed with water (110 ml) and aqueous sodium chloride (6M, 250 ml) and then dried over magnesium sulphate to give a solution of 2'-(2-chloroacetyl)-N-ethylformanilide.

reactant | sulphuryl chloride | 12.7 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2'-acetyl-N-ethylformanilide | C(C)(=O)C1=C(N(C=O)CC)C=CC=C1 | C11H13NO2
reactant | Water | 110 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2'-(2-chloroacetyl)-N-ethylformanilide | ClCC(=O)C1=C(N(C=O)CC)C=CC=C1 | C11H12ClNO2
